US08193199B2
5-chloro-3-(2-chloro-5-fluorophenyl)-2-methylquinoxaline (0.3013 g, 0.981 mmol) and 1,3-dibromo-5,5-dimethylhydantoin (0.280 g, 0.981 mmol) were suspended in carbon tetrachloride (9.81 m/L, 0.981 mmol). To the mixture was added benzoyl peroxide (0.0317 g, 0.0981 mmol) and the mixture was heated at reflux. After 22 h, the mixture was cooled to room temperature and concentrated under reduced pressure. The residue was purified by silica gel column chromatography on a 80 g of Redi-Sep™ column using 0 to 5% gradient of EtOAc in hexane over 10 min, then 5% isocratic of EtOAc for 25 min, then 5 to 20% gradient of EtOAc in hexane over 20 min, then 20% isocratic of EtOAc for 4 min as eluent to give 2-(bromomethyl)-5-chloro-3-(2-chloro-5-fluorophenyl)-quinoxaline as a light yellow syrupy solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.12-8.21 (2H, m), 7.92-8.00 (1H, m), 7.76 (1H, dd, J=9.0, 5.1 Hz), 7.71 (1 H, dd, J=8.6, 3.1 Hz), 7.49-7.58 (1H, m), 4.74 (2H, br. s.); LC-MS (ESI) m/z 387.0 [M+H]+.

reactant | 5-chloro-3-(2-chloro-5-fluorophenyl)-2-methylquinoxaline | 0.981 mmol, 0.3013 g | ClC1=C2N=C(C(=NC2=CC=C1)C)C1=C(C=CC(=C1)F)Cl | C15H9Cl2FN2
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 0.981 mmol, 0.280 g | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
reactant | carbon tetrachloride | 0.981 mmol | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | benzoyl peroxide | 0.0981 mmol, 0.0317 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-(bromomethyl)-5-chloro-3-(2-chloro-5-fluorophenyl)-quinoxaline | BrCC1=NC2=CC=CC(=C2N=C1C1=C(C=CC(=C1)F)Cl)Cl | C15H8BrCl2FN2
